US05866576
A solution of 3-(5-hexenyl)-1-methylthymine (2.00 g, 9 mmol), 4-methylmorpholine-N oxide (1.17 mg, 10 mmol), and a 2.5% sol. in t-butanol of osmium tetroxide (0.15 mL ) in acetone (15 mL) and water (10 mL) was stirred for 20 hours. After addition of a saturated solution of sodium hydrosulfite (10 mL) and 15 minutes of stirring, the reaction mixture was extracted with 20% ethanolldichloromethane (4×40 mL). The combined organic layers were dried over sodium sulfate and the solvent evaporated under vacuum to a give white solid residue. The solid was recrystallized in ethanol to yield 2.00 g (89%) of 3-(5,6-dihydroxyhexyl)-1-methylthymine (inventive compound no. 1907).

reactant | 3-(5-hexenyl)-1-methylthymine | 9 mmol, 2.00 g | C(CCCC=C)N1C(N(C=C(C1=O)C)C)=O | C12H18N2O2
reactant | 4-methylmorpholine-N oxide | 10 mmol, 1.17 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium hydrosulfite | 10 mL | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetone | 15 mL | CC(=O)C | C3H6O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | 10 mL | O | H2O
catalyst | osmium tetroxide | 0.15 mL | [Os](=O)(=O)(=O)=O
product | 3-(5,6-dihydroxyhexyl)-1-methylthymine | 2.00 g, 89% | OC(CCCCN1C(N(C=C(C1=O)C)C)=O)CO | C12H20N2O4
